US05362906
Preparation of [2-Hydroxy-6,10,14-trimethylpentadeca-5,9,13-trienyl]phosphonic acid
This compound was prepared similarly by the method described in Step 2 of Example 1 except that methyl 3-oxo-7,11,15-trimethylhexadeca-6,10,14-trienoate was replaced by dimethyl [2-oxo-6,10,14-trimethyl-pentadeca-5,9,13-trienyl]phosphonate and the product from this reaction was used in the hydrolysis step similarly to the method used in Step 2 in Example 2 to give, after lyophilization, title compound as a nearly colorless gum.

reactant | methyl 3-oxo-7,11,15-trimethylhexadeca-6,10,14-trienoate | O=C(CC(=O)OC)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O3
reactant | dimethyl [2-oxo-6,10,14-trimethyl-pentadeca-5,9,13-trienyl]phosphonate | O=C(CP(OC)(OC)=O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H35O4P
product | [2-Hydroxy-6,10,14-trimethylpentadeca-5,9,13-trienyl]phosphonic acid | OC(CP(O)(O)=O)CCC=C(CCC=C(CCC=C(C)C)C)C | C18H33O4P
